Name:  ___.             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
endometrial cancer
 
Major Surgical or Invasive Procedure:
Total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, and cystoscopy 

 
History of Present Illness:
Ms. ___ is a ___ gravida 4 para 4 with cardiac 
disease, morbid obesity, and a history of 3 prior cesarean 
deliveries who reports about a year of postmenopausal bleeding.  
A pelvic ultrasound on ___ demonstrated a 10.7 x 6 x 7.8 
cm uterus with an abnormally thickened endometrium measuring 2.7 
cm.  There was a 3 cm left ovarian cyst.  The right ovary was 
not definitively seen.  There was a 2.1 cm fibroid. 

She was seen in ___ by GYN where an endometrial biopsy was 
performed. Unfortunately the tissue was insufficient.  She 
returned on ___. A repeat endometrial biopsy was 
collected.  Pathology demonstrated an endometrial 
adenocarcinoma, endometrioid type, FIGO grade 1.  The patient 
was referred to GYN oncology for further evaluation and 
treatment recommendations. 

She was recommended to pursue a total laparoscopic hysterectomy, 
bilateral salpingo-oophorectomy, and possible pelvic lymph node 
dissection. She is presenting today for this scheduled 
procedure. 
 
Past Medical History:
Health Maintenance:
-Mammogram: ___
-Colonoscopy: ___
-Bone Mineral Density: ___

Work-Up:  
-___ year postmenopausal bleeding
-Pelvic ultrasound: ___: Thickened endometrium measuring 
2.7 cm
-Endometrial biopsy: ___: Insufficient tissue
-Repeat endometrial biopsy: ___: Endometrial 
adenocarcinoma, endometrioid type, FIGO grade 1

PMH:
-CORONARY ARTERY DISEASE                                       
-HYPERCHOLESTEROLEMIA                                            

-HYPERTENSION                             
-OBESITY  BMI 42                                 
-PULMONARY HYPERTENSION                                          

-RHEUMATOID ARTHRITIS                                            

-OSTEOARTHRITIS                                                  

-VITAMIN D DEFICIENCY                                            

-H/O ANEMIA                                                      

-H/O TRANSIENT ISCHEMIC ATTACK                                   

                         
Surgical History:
-KNEE SURGERY: total knee replacement  
-BILATERAL HIP REPLACEMENT                                    
-CARPAL TUNNEL SURGERY                                           

-CESAREAN SECTION X3
-FINGER SURGERY                                              
-BILATERAL TUBAL LIGATION                                        


Past OB History:                                             
G4 P4, s/p tubal ligation (after fallopian tube surgery), s/p 
C-section x 3,  h/o PID after ___ pregnancy 

Past GYN History:
- Menopause IN HER ___
- h/o PID and ectopic pregnancy requiring tuboplasty after ___ 
pregnancy
- Denies use of hormone replacement therapy
- Known fibroid
 
Social History:
___
Family History:
Family History: Denies family history of GYN cancer, breast 
cancer, colon cancer                                             

 
Physical Exam:
PRE-OPERATIVE PHYSICAL EXAM:

GENERAL:  No acute distress, well developed, well nourished,
appears younger than stated age.
HEENT: NC/AT, sclera anicteric
SKIN:  Warm and dry.
NEUROLOGIC:  Alert and oriented x 4.
NECK: Supple no mass
LYMPHATICS:  No palpable supraclavicular, cervical, or
inguinofemoral lymphadenopathy.
LUNGS:  Clear to auscultation bilaterally.
HEART:  Regular rate and rhythm.
BACK: No spinal or cva tenderness.
ABDOMEN:  Soft, obese, midline incision with hernia, nontender,
nondistended, without palpable masses or
EXTREMITIES:  Nontender, no edema bilaterally.
PELVIC:  
-External female genitalia: normal
-Vagina: no lesions
-Cervix: no lesions, not expanded
-Uterus: not enlarged, nontender
-Adnexa: no palpable masses
RECTAL:  deferred

PHYSICAL EXAM ON DISCHARGE:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous
 
Pertinent Results:
___ 09:35AM BLOOD WBC-11.2* RBC-4.23 Hgb-11.0* Hct-35.2 
MCV-83 MCH-26.0 MCHC-31.3* RDW-14.2 RDWSD-43.1 Plt ___
___ 06:52AM BLOOD WBC-14.8* RBC-4.05 Hgb-10.7* Hct-34.0 
MCV-84 MCH-26.4 MCHC-31.5* RDW-14.2 RDWSD-43.5 Plt ___
___ 09:35AM BLOOD Plt ___
___ 06:52AM BLOOD Plt ___
___ 06:52AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.7
___ 06:52AM BLOOD Glucose-109* UreaN-18 Creat-1.1 Na-139 
K-4.3 Cl-101 HCO3-27 AnGap-15
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing total laparoscopic hysterectomy, bilateral 
sapling-oophorectomy, and cystoscopy for endometrial cancer. 
Please see the operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV dilaudid. Her 
diet was advanced without difficulty and she was transitioned to 
oral oxycodone and acetaminophen (pain meds). On post-operative 
day #1, her urine output was adequate so her Foley catheter was 
removed and she voided spontaneously. She was continued on her 
home isorbide mononitrate. Her home aspirin was restarted on POD 
#1. For DVT prophylaxis she was maintained on pneumoboots and 
Lovenox. On POD #1 she was restarted on her home medications.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
6. meloxicam 7.5 mg oral QAM 
7. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral DAILY 
8. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not exceed 4g in 24 hours  
RX *acetaminophen 500 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
Take this medication with narcotics 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
Do not drive or operate heavy machinery while on this medication 
 
RX *oxycodone 5 mg 1 capsule(s) by mouth every four (4) hours 
Disp #*45 Capsule Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 10 mg PO QPM  
6.  Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral DAILY  
7.  Ferrous Sulfate 325 mg PO DAILY  
8.  Furosemide 20 mg PO DAILY  
9.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
10.  Lisinopril 10 mg PO DAILY  
11.  meloxicam 7.5 mg oral QAM  
12.  Potassium Chloride 30 mEq PO DAILY 
Hold for K >  
13.  TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth at bedtime 
Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___
.
You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 
. 
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
.
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

.
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 

 
Followup Instructions:
___